US04016148
In a manner analogous to Example 1 b), starting from the benzylamine salt of [(N-benzyloxycarbonyl-L-valyl)amino]-methylphosphonic acid there was obtained (L-valylamino)-methyl-phosphonic acid of melting point 290°-292° C (decomposition); [α]D20 = +67.9° (c = 0.85% in water).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | [(N-benzyloxycarbonyl-L-valyl)amino]-methylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)NOP(O)(=O)C | C14H21N2O6P
product | (L-valylamino)-methyl-phosphonic acid | N[C@@H](C(C)C)C(=O)NOP(O)(=O)C | C6H15N2O4P
